US09314026B2
140 mg (0.50 mmol) of N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]cyclopropanecarboxamide and 172 mg (1.2 eq 0.60 mmol) of 3-bromo-2-(4-fluorophenyl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole are dissolved in 3.5 mL 1,4-dioxan. To this are added 36 mg of bis(tricyclohexylphosphine)-palladium(II)dichloride (0.05 mmol, 0.1 eq) and 1.2 mL sodium carbonate solution (2M in H2O). The reaction mixture is flushed for 5 mins with argon and then sealed. Next the mixture is heated for 12 mins at 120° C. in the microwave (CEM Explorer). After cooling, insoluble components are filtered off and the salt residue washed with 1,4-dioxan. The organic phase is evaporated and the crude product purified by silica gel chromatography (eluent cyclohexane/ethyl acetate). 85 mg (43%) of N-{4-[2-(4-fluorophenyl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]pyridin-2-yl}cyclopropanecarboxamide are obtained as a colourless solid.

reactant | N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]cyclopropanecarboxamide | 0.50 mmol, 140 mg | CC1(OB(OC1(C)C)C1=CC(=NC=C1)NC(=O)C1CC1)C | C15H21BN2O3
reactant | 3-bromo-2-(4-fluorophenyl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole | 0.60 mmol, 172 mg, 1.2 eq | BrC1=C2N(N=C1C1=CC=C(C=C1)F)CCC2 | C12H10BrFN2
reactant | sodium carbonate | 2M, 1.2 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxan | 3.5 mL | O1CCOCC1 | C4H8O2
catalyst | bis(tricyclohexylphosphine)-palladium(II)dichloride | 0.05 mmol, 36 mg, 0.1 eq | C1CCC(CC1)P(C2CCCCC2)C3CCCCC3.C1CCC(CC1)P(C2CCCCC2)C3CCCCC3.[Cl-].[Cl-].[Pd+2]
product | N-{4-[2-(4-fluorophenyl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]pyridin-2-yl}cyclopropanecarboxamide | 85 mg, 43% | FC1=CC=C(C=C1)C=1C(=C2N(N1)CCC2)C2=CC(=NC=C2)NC(=O)C2CC2 | C21H19FN4O
